US08877780B2
A mechanically stirred mixture of 3-(5-bromo-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione (25.2 g, 78 mmol), bis(diphenylphosphino)ferrocene (2.0 g), tris(dibenzylideneacetone)dipalladium (2.0 g) and zinc cyanide (9.4 g, 80 mmol) in DMF (300 mL) was heated to 120° C. and stirred at this temperature for 19 hours. The reaction mixture was cooled to 40° C., and another 9.4 g of zinc cyanide, 2 g of bis(diphenylphosphino)ferrocene and 2 g of tris(dibenzylideneacetone)dipalladium were added. The mixture was stirred at 120° C. for 2 hours, cooled to room temperature and quenched with water (900 mL). The solid was filtered, washed with additional water and air dried overnight. The solid was stirred in hot acetic acid (200 mL) for 20 minutes. The solid was filtered, washed with additional acetic acid, ethyl acetate and hexanes, and air dried to give 30.8 g of crude 2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile as a gray solid; 1H NMR (DMSO-d6) δ 1.99-2.06 (m, 1H), 2.35-2.45 (m, 1H), 2.57-2.63 (m, 1H), 2.86-2.98 (m, 1H), 4.42 (d, J=17.7 Hz, 1H), 4.55 (d, J=17.7 Hz, 1H), 5.15 (dd, J=13.2 Hz, J=5.1 Hz, 1H), 7.91 (d, J=7.8 Hz, 1H), 7.99 (dd, J=7.8 Hz, J=0.9 Hz, 1H), 8.16 (s, 1H), 11.03 (s, 1H).

reactant | 3-(5-bromo-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione | 78 mmol, 25.2 g | BrC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C13H11BrN2O3
reactant | DMF | 300 mL | CN(C)C=O | C3H7NO
catalyst | bis(diphenylphosphino)ferrocene | 2.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium | 2.0 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | zinc cyanide | 80 mmol, 9.4 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc cyanide | 9.4 g | [C-]#N.[Zn+2].[C-]#N
catalyst | bis(diphenylphosphino)ferrocene | 2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium | 2 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindole-5-carbonitrile | 30.8 g | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1)C#N)=O)=O | C14H11N3O3
